US04709050
3-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-n-butyl-pyrrolidine-2,5-dione
To a solution of sodium tert-butoxide prepared from 2.40 g (0.1 mol) of sodium hydride and 135 ml of tert-butyl alcohol is added dropwise a solution of 20.63 g (0.1 mol) of 2,6-di-tert-butylphenol in 100 ml of tert-butyl alcohol. The reaction mixture is stirred at room temperature for 150 minutes and then to the resultant green solution is added dropwise over 120 minutes a solution of 15.31 g (0.1 mol.) of N-n-butylmaleimide in 50 ml of tert-butyl alcohol. The reaction mixture is stirred at room temperature overnight and is then mixed with 10 ml of glacial acetic acid. The reaction mixture is poured into 1.5 1 of water and the resultant mixture is extracted twice with chloroform. The organic extracts are combined and dried over anhydrous sodium sulfate. The solvent is removed in vacuo and the residue is purified by flash chromatography (3:1 heptane:toluene eluent) to give 4.25 g (12%) of a white solid: mp 109°-112° C.;

reactant | sodium tert-butoxide | CC(C)([O-])C.[Na+]
reactant | sodium hydride | 0.1 mol, 2.40 g | [H-].[Na+]
reactant | 2,6-di-tert-butylphenol | 0.1 mol, 20.63 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | N-n-butylmaleimide | 0.1 mol, 15.31 g | C(CCC)N1C(C=CC1=O)=O | C8H11NO2
solvent | tert-butyl alcohol | 100 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butyl alcohol | 50 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butyl alcohol | 135 ml | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-n-butyl-pyrrolidine-2,5-dione | 4.25 g, 12% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1C(N(C(C1)=O)CCCC)=O | C22H33NO3
